US06127415
Synthesis of 3-methyl-1-adamantyl acetate
121 mg (0.728 mmoles) of 3-methyl-1-adamantanol are dissolved in 0.2 mL n-heptane and 0.2 mL cyclohexane. A mixture of 0.2 mL (2.25 mmoles) of acetic anhydride and 2 microliters (0.036 mmoles) of concentrated sulfuric acid is added, and the mixture is stirred at ambient temperature for 20.5 hours. The solution is dissolved in 10L of ether and extracted with 10 mL of water. The aqueous layer is extracted with 10 mL ether. The ether layers are combined, extracted with 2×mL of water followed by 40 mL of aqueous sodium bicarbonate (10 g/liter), dried over magnesium sulfate, and stripped of solvent in vacuo. The product is a colorless oil with Rf 0.55 (silica: eluant hexane 75%, ethyl acetate 25%).

reactant | 3-methyl-1-adamantanol | 0.728 mmoles, 121 mg | CC12CC3(CC(CC(C1)C3)C2)O | C11H18O
reactant | acetic anhydride | 2.25 mmoles, 0.2 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 0.036 mmoles, 2 microliters | S(O)(O)(=O)=O | H2O4S
reactant | water | mL | O | H2O
reactant | sodium bicarbonate | 40 mL | C([O-])(O)=O.[Na+]
solvent | n-heptane | 0.2 mL | CCCCCCC | C7H16
solvent | cyclohexane | 0.2 mL | C1CCCCC1 | C6H12
solvent | ether | CCOCC | C4H10O
product | 3-methyl-1-adamantyl acetate | C(C)(=O)OC12CC3(CC(CC(C1)C3)C2)C | C13H20O2
